US07547710B2
A mixture of tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-trifluoromethanesulfonyloxy-quinolin-3-yl]methylcarbamate (2.76 g, 5.0 mmol), boron bispinacolate (1.52 g, 6.0 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium-dichloromethane (1:1) complex (0.11 g, 0.15 mmol), potassium acetate (1.47 g, 7.5 mmol) and dimethyl sulfoxide (30 ml) was stirred under an argon atmosphere at 100° C. for 2 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and a mixture of the residue, 2-chlorothiazole (0.96 g, 5.0 mmol), tetrakis(triphenylphosphine)palladium (0.58 g, 0.5 mmol), potassium carbonate (3.46 g, 25 mmol), ethanol (5 ml), toluene (30 ml) and water (5 ml) was stirred under an argon atmosphere at 100° C. for 10 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give ethyl 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylate as a mixture. To a solution of the obtained mixture in tetrahydrofuran (4 ml) was added 4N solution of hydrogen chloride in 1,4-dioxane (4 ml), and the mixture was stirred at room temperature for 4 hrs. The reaction mixture was concentrated under reduced pressure, poured into 5% aqueous potassium carbonate solution (100 ml) and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give ethyl 2-[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylate (0.08 g, yield 15%) as white crystals.

reactant | tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-trifluoromethanesulfonyloxy-quinolin-3-yl]methylcarbamate | 5.0 mmol, 2.76 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)OS(=O)(=O)C(F)(F)F | C27H31F3N2O5S
reactant | boron | [B] | B
reactant | potassium acetate | 7.5 mmol, 1.47 g | C(C)(=O)[O-].[K+]
reactant | 2-chlorothiazole | 5.0 mmol, 0.96 g | ClC=1SC=CN1 | C3H2ClNS
reactant | potassium carbonate | 25 mmol, 3.46 g | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
catalyst | tetrakis(triphenylphosphine)palladium | 0.5 mmol, 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | ethyl 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylate | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C=1SC=C(N1)C(=O)OCC)CC(C)C | C32H37N3O4S
